US05444068
a) 2-Ethyl-7-methyl-3H-imidazo[4,5-b]pyridine
10 g (65.3 mmol) of 2-amino-4-methyl-3-nitropyridine are hydrogenated in 40 ml of tetrahydrofuran and 40 ml of methanol in the presence of Raney nickel. The catalyst is filtered off, the solvent is removed, the residue is treated with ethanolic HCl solution and the precipitated 2,3-diamino-4-methylpyridine hydrochloride is filtered off with suction. 7 g of this hydrochloride are dissolved in 57 g of polyphosphoric acid (from 28.5 g of P2O5 and 28.5 g of H3PO 4 (85% strength)) and treated with 1.26 ml of propionic acid, and the solution is stirred at 100° C. for 2h. After cooling, it is poured into ice-water, rendered alkaline by addition of Na2CO3 and extracted several times with EA. The combined EA phases are washed with saturated NaCl solution, dried over Na2SO4 and concentrated and the residue is chromatographed on SiO2 (EA/MeOH 5:1). 4.2 g of the title compound result.

reactant | 2-amino-4-methyl-3-nitropyridine | 65.3 mmol, 10 g | NC1=NC=CC(=C1[N+](=O)[O-])C | C6H7N3O2
reactant | methanol | 40 ml | CO | CH4O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | [Ni] | Ni
product | 2-Ethyl-7-methyl-3H-imidazo[4,5-b]pyridine | 4.2 g | C(C)C1=NC=2C(=NC=CC2C)N1 | C9H11N3
